US06455520B1
N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5-(4-methylpiperazin-1-yl)-2-nitrobenzamide
In an analogous procedure to that described in Example 15, N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5chloro-2-nitrobenzamide was reacted with 1-methylpiperazine to give the title compound; NMR Spectrum: (DMSOd6) 2.21 (s, 3H), 2.24 (s, 3H), 2.41-2.47 (m, 4H), 2.63-2.69 (m, 2H), 3.46-3.53 (m, 8H), 3.69-3.72 (m, 4H), 7.0 (s, 1H) 7.04-7.12 (m, 2H), 7.19 (d, 1H), 7.25 (s, 1H), 7.57 (d, 1H), 7.88 (s, 1H), 8.04 (d, 1H), 8.26 (d, 1H), 9.83 (s, 1H), 10.33 (s, 1H); Mass Spectrum: M+H+ 560.

reactant | N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5chloro-2-nitrobenzamide | CC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C24H22ClN5O5
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5-(4-methylpiperazin-1-yl)-2-nitrobenzamide | CC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(C1=C(C=CC(=C1)N1CCN(CC1)C)[N+](=O)[O-])=O | C29H33N7O5
